Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13],1.16228166175
[H:1][C:2]([H:3])[C:4][O:5][C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4][O:5][C:6][C:7]([H:8])([H:9])[H:10],4.26566114579
[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],1.21837069694
[C:1].[C:2]([C:3]([H:4])([H:5])[H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1][C:2]([C:3]([H:4])([H:5])[H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.61474770515
[C:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][O:9][H:10].[H:1]>>[H:1][C:2]#[C:3][C:4][C:5]([H:6])([H:7])[O:8][O:9][H:10],-3.88607753696
[C:4]([H:5])#[C:6][O:7][C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])([H:10])[H:11],-1.9350585008
[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])[H:7]>>[O:1]=[C:2]([C:3][O:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-1.6840924658200005
[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11](=[O:12])[H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11](=[O:12])[H:13],-3.8878851915400015
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[O:11][H:12]>>[H:10].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9])[O:11][H:12],4.27400587947
[O:1]=[C:2][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:3]=[C:4][H:5]>>[O:1]=[C:2]([O:3][C:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-0.824334834081
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8]>>[C:1]#[C:2][O:3][C:4]([H:5])[H:6].[C:7]#[C:8],4.655011795319999
[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[O:9][C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[O:9][C:10]([H:11])[H:12],4.10405884258
[C:1]#[C:2].[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],-8.06541414936
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],3.63005161781
[O:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2],3.25151843527
[H:12].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][H:12],-3.85202195005
[C:1]#[C:2][O:3][C:4]#[C:5][H:6]>>[C:1].[C:2][O:3][C:4]#[C:5][H:6],5.75759381029
[C:1]=[C:2]([H:3])[H:4].[C:5](\[H:6])([O:7][H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],1.53407314259
[C:1][C:2]#[C:3][C:7]([H:8])=[C:9]([H:10])[H:11].[C:4]([H:5])[H:6]>>[C:1]#[C:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-5.61968134535
[C:4](\[O:5][H:6])=[C:7](\[H:8])[O:9][H:10].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3]/[C:4]([O:5][H:6])=[C:7](\[H:8])[O:9][H:10],-6.19502113288
[C:1][O:2][C:3]([H:4])[C:5]([H:6])=[C:7][H:8]>>[C:1].[O:2]=[C:3]([H:4])[C:5]([H:6])=[C:7][H:8],2.33362511729
[O:1]=[C:2]([H:3])[C:4](=[C:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]1[C:5][C@:6]1([H:7])[C:8]([H:9])([H:10])[H:11],-0.8304337686200001
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]=[O:11]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C@:8]1([H:9])[C:10][O:11]1,2.02473760867
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2][C:3]([H:4])=[C:5][H:6].[O:7][C:8]([H:9])([H:10])[O:11][H:12],4.53047899561
[H:1].[O:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.77602980102
[C:1]#[C:2][C@:3]([H:4])([O:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:6]>>[C:1]#[C:2][C@:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.7256851852800015
[C:1]#[C:2][O:3][C:4].[C:5]([H:6])[H:7]>>[C:1]#[C:2][O:3][C:4][C:5]([H:6])[H:7],-5.3335648857
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])[H:9],4.92898077178
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16].[H:1][C:2][H:3],5.03993295
[H:1][O:2][C:3]([C:4]#[C:5][C:6]([H:7])[H:8])[O:10][H:11].[H:9]>>[H:1][O:2][C:3]([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[O:10][H:11],-2.5562419241900005
